US04585788
A solution of 3.5 g. of methyl 6,11-dihydro-11oxodibenz[b,e]oxepin-2-acetate in 150 ml. of dry ether is added dropwise to suspension of 2.5 g. of lithium aluminum hydride in 50 ml. of dry ether. The mixture is refluxed for three hours, cooled to 0° C., and hydrolyzed. The mixture is extracted with ether, dried over sodium sulfate, and evaporated to a crude crystalline product. Recrystallization from acetonitrile provides colorless crystals, m.p. 135°-137° C. of 6,11-dihydro-11-hydroxydibenz-[b,e]oxepin-2-ethanol.

reactant | methyl 6,11-dihydro-11oxodibenz[b,e]oxepin-2-acetate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC | C17H14O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 6,11-dihydro-11-hydroxydibenz-[b,e]oxepin-2-ethanol | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCO | C16H16O3
